US08664288B2
1-Acetyl-1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea (Cmpd. 8)
To a solution of 1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea (Cmpd. 2) (10.5 g, 35.7 mmol) and 4-dimethylaminopyridine (100 mg) in pyridine (25 ml) is dropwise added acetanhydride (5 ml, 52.9 mmol). The mixture is stirred 2 h and evaporated. The residue is dissolved in toluene (100 ml), washed with water (5×20 ml), dried over MgSO4 and evaporated to afford 9.58 g of the title compound as a light yellow oil.

reactant | 1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea | 35.7 mmol, 10.5 g | C1(CCCCC1)NC(ON=C(C)CC)=NC1CCCCC1 | C17H31N3O
reactant | acetanhydride | 52.9 mmol, 5 ml | CC(=O)OC(=O)C | C4H6O3
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetyl-1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea | 9.58 g | C(C)(=O)N(C(ON=C(C)CC)=NC1CCCCC1)C1CCCCC1 | C19H33N3O2
